US03983135
To a suspension of creatinine (5.66 g, 0.05 mole) in 150 ml. of dry dimethylformamide (DMF) is added 7.68 g (0.05 mole) of m-chlorophenylisocyanate. The mixture is stirred for 2 hours and heated on a steam bath for 30 minutes. During this time the solution becomes clear (yellow). The solution is filtered and the filtrate cooled. Ice and ice-water are added to the filtrate. A light yellow solid precipitates and is filtered off. After recrystallizations from acetone-methanol and tetrahydrofuran-ether, the pure product, 1-m-chlorophenyl-3-(1-methyl-4-oxo-2-imidazolidinylidene)urea, is obtained, mp 180°-180.5°C.

reactant | creatinine | 0.05 mole, 5.66 g | CN1CC(=O)N=C1N | C4H7N3O
reactant | m-chlorophenylisocyanate | 0.05 mole, 7.68 g | ClC=1C=C(C=CC1)N=C=O | C7H4ClNO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-m-chlorophenyl-3-(1-methyl-4-oxo-2-imidazolidinylidene)urea | ClC=1C=C(C=CC1)NC(=O)N=C1N(CC(N1)=O)C | C11H11ClN4O2
